US07642270B2
1-(2-Bromo-ethyl)-4-nitro-benzene (1 g, 4.3 mmol) was added to a mixture of morpholine (435 μL, 5 mmol) and potassium carbonate (690 mg, 5.0 mmol) in 5 mL of DMSO. The mixture was stirred at 100° C. for 1 hour. After cooling to room temperature, the mixture was extracted into ethyl acetate (EtOAc), washed with water, brine and then dried with sodium sulfate (Na2SO4). Removal of the solvent and chromatography on silica, eluting with EtOAc/CH3OH/NH4OH (10:1:0.1, v/v), gave 950 mg of 4-[2-(4-nitro-phenyl)-ethyl]-morpholine, which was converted to the title compound under normal hydrogenation conditions. The title compound was obtained as a yellow solid (880 mg, 99%). 1H NMR (400 MHz, CDCl3) δ (ppm): 6.98 (d, J=8.2 Hz, 2H), 6.61 (d, J=8.2 Hz, 2H), 3.73 (t, J=4.5 Hz, 4H), 3.57 (br, 2H), 2.64-2.71 (m, 2H), 2.45-2.56 (m, 6H).

reactant | 1-(2-Bromo-ethyl)-4-nitro-benzene | 4.3 mmol, 1 g | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | morpholine | 5 mmol, 435 μL | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 5.0 mmol, 690 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 4-[2-(4-nitro-phenyl)-ethyl]-morpholine | 950 mg | [N+](=O)([O-])C1=CC=C(C=C1)CCN1CCOCC1 | C12H16N2O3
